US04397677
Preparation of N-Ethyl-N-(2,2-diethoxyethyl)-2,6-dinitro-p-toluidine
4-Chloro-3,5-dinitrotoluene (4.32 grams; 0.02 mole), N-ethyl-N-(2,2-diethoxyethyl)amine (3.2 grams; 0.02 mole), triethylamine (2.02 grams; 0.02 mole) and toluene (100 ml) were charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser. The reaction mixture was heated at reflux overnight resulting in the formation of a precipitate. The reaction mixture was then filtered and the filtrate washed with water, dried and stripped of solvent to yield the desired product N-ethyl-N-(2,2-diethoxyethyl)-2,6-dinitro-p-toluidine.

reactant | 4-Chloro-3,5-dinitrotoluene | 0.02 mole, 4.32 grams | ClC1=C(C=C(C=C1[N+](=O)[O-])C)[N+](=O)[O-] | C7H5ClN2O4
reactant | N-ethyl-N-(2,2-diethoxyethyl)amine | 0.02 mole, 3.2 grams | C(C)NCC(OCC)OCC | C8H19NO2
reactant | triethylamine | 0.02 mole, 2.02 grams | C(C)N(CC)CC | C6H15N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N-ethyl-N-(2,2-diethoxyethyl)-2,6-dinitro-p-toluidine | C(C)N(C1=C(C=C(C=C1[N+](=O)[O-])C)[N+](=O)[O-])CC(OCC)OCC | C15H23N3O6
